US05137892
Step 1: 1,5-dioxa-8-azaspiro[5.4]decane benzyl carbamate
Into a round bottom flask were placed 2.00 g (9.1 mmol) of 3-pyrrolidinone benzyl carbamate, from Example 1 Step 2, dissolved in 40 mL of toluene, 1.65 mL (22.8 mmol) of 1,3-propanediol and 0.09 g (0.46 mmol) of p-toluenesulfonic acid. The mixture was heated at 110°-125° C. for 48 hours. The solution was poured into 100 mL of 5% sodium bicarbonate solution, and the product was extracted into ethyl acetate, which was then dried over anhydrous sodium sulfate. The solvent was removed under vacuum, and the residue distilled in a kugelrohr apparatus (200° C. @ 2.5 Torr) to afford the title compound, MS: M/Z 295 (M+NH4), which was taken directly to the next step.

reactant | 3-pyrrolidinone benzyl carbamate | 9.1 mmol, 2.00 g | C(C1=CC=CC=C1)NC(O)=O.N1CC(CC1)=O
reactant | 1,3-propanediol | 22.8 mmol, 1.65 mL | C(CCO)O | C3H8O2
reactant | p-toluenesulfonic acid | 0.46 mmol, 0.09 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 1,5-dioxa-8-azaspiro[5.4]decane benzyl carbamate | C(C1=CC=CC=C1)NC(O)=O.O1CCCOC12CNCC2 | InChI=1S/C8H9NO2.C7H13NO2/c10-8(11)9-6-7-4-2-1-3-5-7;1-4-9-7(10-5-1)2-3-8-6-7/h1-5,9H,6H2,(H,10,11);8H,1-6H2
